US06537948B1
A mixture of 5-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-4-{1-(methoxycarbonyl)ethoxy}-2-methylpyrimidine, platinum oxide, ethanol and ethyl acetate is stirred for 1.5 hours at room temperature under hydrogen atmosphere. The reaction system is purged with nitrogen, then, the reaction solution is filtrated through Celite, and the filtrate is concentrated to obtain 5-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-4-{1-(methoxycarbonyl)ethoxy}-2-methylpyrimidine.

reactant | 5-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-4-{1-(methoxycarbonyl)ethoxy}-2-methylpyrimidine | FC1=CC(=C(OC=2C(=NC(=NC2)C)OC(C)C(=O)OC)C=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-] | C21H17F4N5O8
reactant | ethanol | C(C)O | C2H6O
catalyst | platinum oxide | [Pt]=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-4-{1-(methoxycarbonyl)ethoxy}-2-methylpyrimidine | NC1=C(OC=2C(=NC(=NC2)C)OC(C)C(=O)OC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C21H19F4N5O6
